US04868202
N-(2-Cyanoethyl)-N-formylglycine
A mixture of 21.0 g of N-(2-cyanoethyl)-glycine ethyl ester and 18.3 g of formic acid is refluxed for 2 h. After concentration of this mixture underreduced pressure, the residue is taken up in 50 ml of ethanol, and cooled to 0° C.; there is then added dropwise a solution of 25.5 g of potassium hydroxide and 40 ml of water in 80 ml of ethanol. After the reaction solution has warmed up to room temperature, the solvent is evaporated off, and the residue is acidified to pH 1 with conc. hydrochloric acid. The mixture is saturated with sodium chloride and subsequently extracted with ethyl acetate. The combined organic extracts are concentrated by evaporation to thus obtain N-(2-cyanoethyl)-N-formylglycine, m.p. 112°-114° C. (compound No. 1.1).

reactant | N-(2-cyanoethyl)-glycine ethyl ester | 21.0 g | C(C)OC(CNCCC#N)=O | C7H12N2O2
reactant | formic acid | 18.3 g | C(=O)O | CH2O2
reactant | potassium hydroxide | 25.5 g | [OH-].[K+]
reactant | water | 40 ml | O | H2O
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | N-(2-Cyanoethyl)-N-formylglycine | C(#N)CCN(CC(=O)O)C=O | C6H8N2O3
